US06608072B1
c) 4-Fluoro-2-bromo-2-(2-methylthio-4-pyrimidinyl)acetophenone
Bromine (1.22 g; 7.6 mmol) in acetic acid (5.6 ml) is added to a solution of 4-Fluoro-2-(2-methylthio-4-pyrimidinyl)acetophenone (2 g; 7.6 mmol) in acetic acid (40 ml). The initially thick precipitate is almost dissolved after 20 min., filtered and the filtrate evaporated to dryness. The residue is taken up in a saturated solution of NaHCO3 and extracted three times with tert.butyl methyl ether. The combined organic phases are dried over Na2SO4 and evaporated to dryness to yield 2.6 g (100%) of a brown oil, which is used in the next step without purification.

reactant | Bromine | 7.6 mmol, 1.22 g | BrBr | Br2
reactant | 4-Fluoro-2-(2-methylthio-4-pyrimidinyl)acetophenone | 7.6 mmol, 2 g | FC1(NC(=NC=C1)SC)CC(=O)C1=CC=CC=C1 | C13H13FN2OS
solvent | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4-Fluoro-2-bromo-2-(2-methylthio-4-pyrimidinyl)acetophenone | 2.6 g, 100% | FC1(NC(=NC=C1)SC)C(C(=O)C1=CC=CC=C1)Br | C13H12BrFN2OS
